US06258829B1
Ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
Phosphorus tribromide (3.51 g, 12.5 mmol) was dissolved in ethyl acetate (12.0 ml) to which was subsequently added dropwise ethyl acetate solution (10.0 ml) of ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide (1.47 g, 5.00 mmol) at room temperature, and the resulting mixture was stirred at the same temperature for 10 minutes and then at 80° C. for 15 minutes. After cooling, the reaction solution was poured into ice water, mixed with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate, and the thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the resulting residue was purified by a silica gel column chromatography (ethyl acetate:hexane=2:1) to obtain the title compound (1.36 g, 97.9%) as pale brown oil.

reactant | Phosphorus tribromide | 12.5 mmol, 3.51 g | P(Br)(Br)Br | Br3P
reactant | ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 5.00 mmol, 1.47 g | CC1=C(C(=C2C(=[N+]1[O-])CCCCC2)[N+](=O)[O-])C(=O)OCC | C14H18N2O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 12.0 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10.0 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 1.36 g, 97.9% | CC1=C(C(=C2C(=N1)CCCCC2)[N+](=O)[O-])C(=O)OCC | C14H18N2O4
